US09416132B2
To a solution of trans-ethyl 4-hydroxycyclohexanecarboxylate (1 g, 5.8 mmol) in THF (50 mL) was added dropwise methylmagnesium bromide (7.7 mL, 23.2 mmol) at −78° C. The mixture was stirred at room temperature for 2 h. TLC (PE:EA=1:1) showed the reaction was complete. The mixture was quenched by the addition of NH4Cl (100 mL) and extracted with EtOAc (100 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo to give trans-4-(2-hydroxypropan-2-yl)cyclohexanol (0.88 g, 96%) as a yellow solid.

reactant | trans-ethyl 4-hydroxycyclohexanecarboxylate | 5.8 mmol, 1 g | O[C@@H]1CC[C@H](CC1)C(=O)OCC | C9H16O3
reactant | methylmagnesium bromide | 23.2 mmol, 7.7 mL | C[Mg]Br
reactant | EA | CC(OCC)=O | C4H8O2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | trans-4-(2-hydroxypropan-2-yl)cyclohexanol | 0.88 g, 96% | OC(C)(C)[C@@H]1CC[C@H](CC1)O | C9H18O2
